US07645755B2
a) 5-Trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A solution of LDA (23.4 mL, 35.1 mmol, 1.5 M in cyclohex) in THF (50 mL) was cooled to −78° C. under Ar. The solution was treated with 3-oxo-piperidine-1-carboxylic acid tert-butyl ester (5.00 g, 25.1 mmol) as a solution in THF (15 mL) via drop wise addition and stirred for 15 min. The mixture was treated with 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonimide (12.5 g, 35.1 mmol) as a solution in THF (40 mL). The mixture was allowed to warm to room temperature and stir 2.5 h. The reaction was quenched with saturated aqueous NaHCO3, diluted with Et2O, and washed with water. The organic layer was dried over MgSO4 and concentrated in vacuo. Silica gel chromatography (5% EtOAc in hexanes) afforded the title compound (2.45 g, 30%) as a colorless oil. 1H-NMR (CDCl3; 400 MHz): δ 5.97-5.89 (m, 1H), 4.09-4.01 (m, 2H), 3.54-3.45 (m, 2H), 2.36-2.26 (m, 2H), 1.48 (s, 9H). LC-MS (ESI, m/z): Calcd. for C11H16F3NO5S 332.1 (M+H), found 332.1.

reactant | LDA | 35.1 mmol, 1.5 M, 23.4 mL | [Li+].CC(C)[N-]C(C)C
reactant | 3-oxo-piperidine-1-carboxylic acid tert-butyl ester | 25.1 mmol, 5.00 g | C(C)(C)(C)OC(=O)N1CC(CCC1)=O | C10H17NO3
reactant | 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonimide | 35.1 mmol, 12.5 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-Trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 2.45 g, 30% | C(C)(C)(C)OC(=O)N1CCC=C(C1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
